US08349824B2
A mixture of 1-methyl-5-(2-(pyridin-3-yl)-[1,2,4]triazolo[1,5-a]pyridin-7-ylcarbamoyl)-1H-pyrazole-4-carboxylic acid (100 mg, 223 μmol), morpholine (156 μl, 1.79 mmol), propylphosphonic anhydride (50% in ethyl acetate, 329 μl, 558 μmol) and N,N-diisopropylethylamine (114 μl, 669 μmol) in tetrahydrofurane (7 ml) is refluxed for 18 hours. The mixture is dissolved in ethyl acetate and washed with sodium bicarbonate solution and brine. The organic layer is separated, dried with magnesium sulfate and the solvent is removed under reduced pressure. The residue is purified by chromatography on a 20 g silica column using ethyl acetate/methanol 10% as eluent affording 1-methyl-4-(morpholine-4-carbonyl)-N-(2-(pyridin-3-yl)-[1,2,4]triazolo[1,5-a]pyridin-7-yl)-1H-pyrazole-5-carboxamide (40 mg, 41.5%) as a white solid. mp.: 218-220° C. MS: m/z=433.3 (M+H+).

reactant | 1-methyl-5-(2-(pyridin-3-yl)-[1,2,4]triazolo[1,5-a]pyridin-7-ylcarbamoyl)-1H-pyrazole-4-carboxylic acid | 223 μmol, 100 mg | CN1N=CC(=C1C(NC1=CC=2N(C=C1)N=C(N2)C=2C=NC=CC2)=O)C(=O)O | C17H13N7O3
reactant | morpholine | 1.79 mmol, 156 μl | N1CCOCC1 | C4H9NO
reactant | propylphosphonic anhydride | 558 μmol, 329 μl | CCCP(=O)=O | C3H7O2P
reactant | N,N-diisopropylethylamine | 669 μmol, 114 μl | C(C)(C)N(C(C)C)CC | C8H19N
solvent | tetrahydrofurane | 7 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-methyl-4-(morpholine-4-carbonyl)-N-(2-(pyridin-3-yl)-[1,2,4]triazolo[1,5-a]pyridin-7-yl)-1H-pyrazole-5-carboxamide | 40 mg, 41.5% | CN1N=CC(=C1C(=O)NC1=CC=2N(C=C1)N=C(N2)C=2C=NC=CC2)C(=O)N2CCOCC2 | C21H20N8O3
